US08664401B2
Step D) 2-Ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanoic acid
Potassium hydroxide (37 mg, 0.66 mmol, 6.0 equiv) was added to a solution of ethyl 2-ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanoate (43 mg, 0.11 mmol, 1.0 equiv) in 2:2:1 tetrahydrofuran-methanol-water (2.5 mL) at 0° C. The reaction was allowed to warm to room temperature and stir overnight. The reaction was concentrated under reduced pressure to provide a wet residue that was diluted with water (5 mL) and acidified (to pH=2) with 1.0 hydrochloric acid. The resulting white precipitate was filtered, washed with water, and dried under reduced pressure to provide the title compound (34 mg, 85%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.09 (t, J=7.52 Hz, 3H) 1.42 (s, 3H) 1.93-2.07 (m, 1H) 2.23-2.37 (m, 2H) 2.55 (d, J=5.66 Hz, 1H) 3.25 (s, 3H) 4.10-4.24 (m, 2H) 4.47-4.59 (m, 2H) 6.63-6.67 (m, 1H) 6.90 (d, J=1.95 Hz, 1H) 7.44-7.50 (m, 4H) 7.54-7.62 (m, 2H).

reactant | Potassium hydroxide | 0.66 mmol, 37 mg, 6.0 equiv | [OH-].[K+]
reactant | ethyl 2-ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanoate | 0.11 mmol, 43 mg, 1.0 equiv | C(C)C(C(=O)OCC)(CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C20H25NO5S
reactant | tetrahydrofuran-methanol water | 2.5 mL | O1C(CCC1)CO.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 2-Ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanoic acid | 34 mg, 85% | C(C)C(C(=O)O)(CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C18H21NO5S
